* File: G2_AOI21_N2.pex.netlist.pex
* Created: Mon Apr 11 18:40:10 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_AOI21_N2_VSS 2 4 6 8 19 30 35 38 43 48 57 66 67 69 77 78 79 84 86
+ 88 89 Vss
c51 89 Vss 4.28045e-19
c52 86 Vss 0.00486026f
c53 84 Vss 0.00155386f
c54 79 Vss 0.00128356f
c55 78 Vss 4.65637e-19
c56 77 Vss 0.00250049f
c57 69 Vss 0.00102564f
c58 67 Vss 0.00986383f
c59 66 Vss 0.00273179f
c60 65 Vss 0.00133186f
c61 57 Vss 0.00579208f
c62 48 Vss 2.73256e-19
c63 43 Vss 0.00178422f
c64 38 Vss 0.00142279f
c65 35 Vss 0.00389683f
c66 30 Vss 0.00549227f
c67 25 Vss 0.0828998f
c68 19 Vss 0.0350566f
c69 18 Vss 0.0688416f
c70 8 Vss 0.135691f
c71 4 Vss 0.134006f
r72 85 89 0.551426
r73 85 86 15.5878
r74 84 89 0.551426
r75 83 84 4.58464
r76 79 89 0.0828784
r77 77 86 0.652036
r78 77 78 4.33457
r79 73 78 0.652036
r80 68 88 0.326018
r81 67 83 0.652036
r82 67 68 15.6711
r83 66 69 0.655813
r84 65 88 0.326018
r85 65 66 4.58464
r86 48 79 1.82344
r87 43 57 1.16709
r88 43 73 2.16729
r89 38 69 1.82344
r90 35 48 1.16709
r91 30 38 1.16709
r92 25 57 0.0476429
r93 23 25 2.04225
r94 20 23 0.0685365
r95 18 23 0.5835
r96 18 19 2.8008
r97 15 19 0.652036
r98 8 20 3.8511
r99 6 35 0.185659
r100 4 15 3.8511
r101 2 30 0.185659
.ends

.subckt PM_G2_AOI21_N2_VDD 2 4 6 8 10 29 37 42 45 46 48 50 54 56 57 58 62 63 65
+ 67 68 74 Vss
c58 74 Vss 0.00462133f
c59 68 Vss 4.52364e-19
c60 65 Vss 0.00203839f
c61 63 Vss 0.00821501f
c62 62 Vss 8.61193e-19
c63 58 Vss 0.00179763f
c64 57 Vss 6.04409e-19
c65 56 Vss 0.00220637f
c66 54 Vss 0.00139836f
c67 51 Vss 0.00169975f
c68 50 Vss 0.0126653f
c69 48 Vss 0.00162243f
c70 46 Vss 0.00140335f
c71 45 Vss 0.00324454f
c72 42 Vss 0.00402078f
c73 37 Vss 0.00544429f
c74 33 Vss 0.0307649f
c75 29 Vss 1.05042e-19
c76 26 Vss 0.101606f
c77 22 Vss 0.035898f
c78 21 Vss 0.0712517f
c79 8 Vss 0.135377f
c80 6 Vss 0.136126f
c81 2 Vss 0.135008f
r82 64 68 0.551426
r83 64 65 4.58464
r84 63 68 0.551426
r85 62 67 0.326018
r86 62 63 15.5878
r87 58 68 0.0828784
r88 58 60 1.82344
r89 56 67 0.326018
r90 56 57 4.37625
r91 54 74 1.16709
r92 52 57 0.652036
r93 52 54 2.16729
r94 50 65 0.652036
r95 50 51 15.7128
r96 46 48 1.85991
r97 45 51 0.652036
r98 44 46 0.655813
r99 44 45 4.58464
r100 42 60 1.16709
r101 37 48 1.16709
r102 29 74 0.0476429
r103 27 33 0.494161
r104 27 29 1.45875
r105 26 30 0.652036
r106 26 29 1.45875
r107 23 33 0.128424
r108 21 33 0.494161
r109 21 22 2.8008
r110 18 22 0.652036
r111 10 42 0.185659
r112 8 30 3.8511
r113 6 23 3.8511
r114 4 37 0.185659
r115 2 18 3.8511
.ends

.subckt PM_G2_AOI21_N2_B 2 4 20 25 28 Vss
c17 28 Vss 0.00498247f
c18 25 Vss 6.10536e-19
c19 20 Vss 0.0915067f
c20 16 Vss 0.0598477f
c21 4 Vss 0.157143f
c22 2 Vss 0.372582f
r23 25 28 1.16709
r24 18 20 2.04225
r25 16 28 0.197068
r26 13 16 1.2837
r27 10 20 0.0685365
r28 8 18 0.0685365
r29 7 13 0.0685365
r30 4 10 4.3179
r31 2 8 9.9195
r32 2 7 3.8511
.ends

.subckt PM_G2_AOI21_N2_C 2 4 6 17 24 28 31 34 38 43 56 Vss
c46 56 Vss 0.00123749f
c47 43 Vss 0.0052622f
c48 38 Vss 0.00284502f
c49 34 Vss 0.00609886f
c50 28 Vss 0.0947914f
c51 24 Vss 0.0843207f
c52 17 Vss 3.53906e-19
c53 6 Vss 0.232307f
c54 4 Vss 0.201668f
c55 2 Vss 0.134559f
r56 52 56 0.652036
r57 38 56 5.16814
r58 34 43 1.16709
r59 34 52 10.4196
r60 31 34 0.145875
r61 26 28 2.04225
r62 24 43 0.0476429
r63 21 24 1.92555
r64 18 28 0.0685365
r65 17 38 1.16709
r66 13 26 0.0685365
r67 13 17 2.8008
r68 10 21 0.0685365
r69 6 18 7.1187
r70 4 17 4.3179
r71 2 10 3.8511
.ends

.subckt PM_G2_AOI21_N2_Z 2 4 6 8 23 27 30 33 Vss
c32 30 Vss 0.00256251f
c33 27 Vss 0.00470045f
c34 23 Vss 0.00695334f
c35 8 Vss 0.00143442f
c36 6 Vss 0.00143442f
r37 33 35 7.002
r38 30 33 4.00114
r39 27 35 1.16709
r40 23 30 1.16709
r41 8 27 0.185659
r42 6 23 0.185659
r43 4 27 0.185659
r44 2 23 0.185659
.ends

.subckt PM_G2_AOI21_N2_A 2 4 10 11 13 14 15 20 24 29 32 Vss
c34 32 Vss 9.11501e-19
c35 29 Vss 4.23286e-19
c36 24 Vss 1.80739e-19
c37 20 Vss 0.136821f
c38 18 Vss 0.0247918f
c39 15 Vss 0.0322409f
c40 14 Vss 0.0730777f
c41 13 Vss 0.0312529f
c42 11 Vss 0.0324953f
c43 10 Vss 0.122088f
c44 2 Vss 0.238343f
r45 26 32 1.16709
r46 26 29 0.0729375
r47 24 32 0.262036
r48 20 32 0.238214
r49 18 24 0.326018
r50 18 20 0.64185
r51 15 24 2.50905
r52 14 24 0.326018
r53 14 24 0.1167
r54 13 15 0.652036
r55 12 13 1.22535
r56 10 12 0.652036
r57 10 11 3.09255
r58 7 11 0.652036
r59 4 20 3.7344
r60 2 7 7.4688
.ends

