* File: G2_AOI21_N3.pex.netlist.pex
* Created: Mon Apr 11 18:50:47 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_AOI21_N3_VSS 2 4 6 8 19 30 35 38 43 48 57 66 67 69 77 78 79 84 86
+ 88 89 Vss
c48 89 Vss 4.28045e-19
c49 86 Vss 0.00576702f
c50 84 Vss 0.00198426f
c51 79 Vss 0.00132518f
c52 78 Vss 4.66086e-19
c53 77 Vss 0.00250771f
c54 69 Vss 0.00104615f
c55 67 Vss 0.0101744f
c56 66 Vss 0.00354326f
c57 65 Vss 0.00133883f
c58 57 Vss 0.00699915f
c59 48 Vss 2.01624e-19
c60 43 Vss 0.00190058f
c61 38 Vss 0.00140655f
c62 35 Vss 0.00813966f
c63 30 Vss 0.0101549f
c64 25 Vss 0.0829032f
c65 19 Vss 0.0350566f
c66 18 Vss 0.0688416f
c67 8 Vss 0.190897f
c68 4 Vss 0.189497f
r69 85 89 0.551426
r70 85 86 18.3386
r71 84 89 0.551426
r72 83 84 5.50157
r73 79 89 0.0828784
r74 77 86 0.652036
r75 77 78 4.33457
r76 73 78 0.652036
r77 68 88 0.326149
r78 67 83 0.652298
r79 67 68 15.1308
r80 66 69 0.655813
r81 65 88 0.326149
r82 65 66 5.50157
r83 48 79 1.82344
r84 43 57 1.16709
r85 43 73 2.16729
r86 38 69 1.82344
r87 35 48 1.16709
r88 30 38 1.16709
r89 25 57 0.0476429
r90 23 25 2.04225
r91 20 23 0.0685365
r92 18 23 0.5835
r93 18 19 2.8008
r94 15 19 0.652036
r95 8 20 5.1348
r96 6 35 0.123773
r97 4 15 5.1348
r98 2 30 0.123773
.ends

.subckt PM_G2_AOI21_N3_VDD 2 4 6 8 10 29 37 42 45 46 48 50 54 56 57 58 63 65 66
+ 68 74 Vss
c56 74 Vss 0.004704f
c57 66 Vss 4.52364e-19
c58 65 Vss 0.00371658f
c59 63 Vss 0.0104139f
c60 58 Vss 0.0017471f
c61 57 Vss 6.04409e-19
c62 56 Vss 0.00309603f
c63 54 Vss 0.00137895f
c64 51 Vss 0.00173381f
c65 50 Vss 0.0117653f
c66 48 Vss 0.00158874f
c67 46 Vss 0.00143356f
c68 45 Vss 0.00419705f
c69 42 Vss 0.0082636f
c70 37 Vss 0.010107f
c71 33 Vss 0.0307825f
c72 29 Vss 8.92604e-20
c73 26 Vss 0.101624f
c74 22 Vss 0.0359157f
c75 21 Vss 0.0712517f
c76 8 Vss 0.189919f
c77 6 Vss 0.190671f
c78 2 Vss 0.189552f
r79 65 68 0.326018
r80 64 66 0.551426
r81 64 65 5.50157
r82 63 66 0.551426
r83 62 63 18.3386
r84 58 66 0.0828784
r85 58 60 1.82344
r86 56 62 0.652036
r87 56 57 4.37625
r88 54 74 1.16709
r89 52 57 0.652036
r90 52 54 2.16729
r91 50 68 0.326018
r92 50 51 15.6711
r93 46 48 1.82344
r94 45 51 0.652036
r95 44 46 0.655813
r96 44 45 5.50157
r97 42 60 1.16709
r98 37 48 1.16709
r99 29 74 0.0476429
r100 27 33 0.494161
r101 27 29 1.45875
r102 26 30 0.652036
r103 26 29 1.45875
r104 23 33 0.128424
r105 21 33 0.494161
r106 21 22 2.8008
r107 18 22 0.652036
r108 10 42 0.123773
r109 8 30 5.1348
r110 6 23 5.1348
r111 4 37 0.123773
r112 2 18 5.1348
.ends

.subckt PM_G2_AOI21_N3_B 2 4 20 23 26 29 Vss
c18 29 Vss 0.00496711f
c19 23 Vss 4.14813e-19
c20 20 Vss 0.0923936f
c21 16 Vss 0.0610957f
c22 4 Vss 0.211686f
c23 2 Vss 0.427124f
r24 23 29 1.16709
r25 23 26 0.125036
r26 18 20 2.04225
r27 16 29 0.197068
r28 13 16 1.2837
r29 10 20 0.0685365
r30 8 18 0.0685365
r31 7 13 0.0685365
r32 4 10 5.6016
r33 2 8 11.2032
r34 2 7 5.1348
.ends

.subckt PM_G2_AOI21_N3_C 2 4 6 17 24 28 31 36 39 43 56 Vss
c47 56 Vss 0.00111429f
c48 43 Vss 0.0052438f
c49 39 Vss 0.00260114f
c50 36 Vss 3.26162e-19
c51 31 Vss 0.00720813f
c52 28 Vss 0.0949366f
c53 24 Vss 0.084323f
c54 17 Vss 4.93054e-19
c55 6 Vss 0.286419f
c56 4 Vss 0.25621f
c57 2 Vss 0.189817f
r58 52 56 0.652036
r59 39 56 5.16814
r60 36 39 0.0833571
r61 31 43 1.16709
r62 31 52 12.2535
r63 26 28 2.04225
r64 24 43 0.0476429
r65 21 24 1.92555
r66 18 28 0.0685365
r67 17 39 1.16709
r68 13 26 0.0685365
r69 13 17 2.8008
r70 10 21 0.0685365
r71 6 18 8.4024
r72 4 17 5.6016
r73 2 10 5.1348
.ends

.subckt PM_G2_AOI21_N3_Z 2 4 6 8 23 27 30 33 Vss
c33 30 Vss 0.00262006f
c34 27 Vss 0.00473513f
c35 23 Vss 0.00644988f
c36 8 Vss 0.00143493f
c37 6 Vss 0.00143493f
r38 33 35 7.5855
r39 30 33 5.2515
r40 27 35 1.16709
r41 23 30 1.16709
r42 8 27 0.123773
r43 6 23 0.123773
r44 4 27 0.123773
r45 2 23 0.123773
.ends

.subckt PM_G2_AOI21_N3_A 2 4 10 11 13 14 15 20 24 29 32 Vss
c32 32 Vss 9.42706e-19
c33 29 Vss 5.87748e-19
c34 24 Vss 1.66175e-19
c35 20 Vss 0.191363f
c36 18 Vss 0.0247918f
c37 15 Vss 0.0322409f
c38 14 Vss 0.0740343f
c39 13 Vss 0.0312529f
c40 11 Vss 0.0324985f
c41 10 Vss 0.122088f
c42 2 Vss 0.292885f
r43 26 32 1.16709
r44 26 29 0.0729375
r45 24 32 0.262036
r46 20 32 0.238214
r47 18 24 0.326018
r48 18 20 0.64185
r49 15 24 2.50905
r50 14 24 0.326018
r51 14 24 0.1167
r52 13 15 0.652036
r53 12 13 1.22535
r54 10 12 0.652036
r55 10 11 3.09255
r56 7 11 0.652036
r57 4 20 5.0181
r58 2 7 8.7525
.ends

