* File: G2_BUF1_N2.pex.netlist.pex
* Created: Wed Mar  2 15:38:39 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_BUF1_N2_VDD 2 4 7 11 28 30 32 44 48 52 54 56 57 61 65 67 71 75 78
+ 90 95 Vss
c59 95 Vss 0.0047576f
c60 90 Vss 0.00460635f
c61 80 Vss 9.22237e-19
c62 79 Vss 9.22237e-19
c63 75 Vss 0.00103298f
c64 71 Vss 9.84953e-19
c65 68 Vss 0.001766f
c66 67 Vss 0.0073616f
c67 65 Vss 0.00118372f
c68 61 Vss 0.00118372f
c69 57 Vss 0.00729501f
c70 56 Vss 0.0034296f
c71 54 Vss 0.00566164f
c72 52 Vss 0.0034296f
c73 51 Vss 0.001766f
c74 48 Vss 0.00382489f
c75 44 Vss 0.00532438f
c76 32 Vss 0.035607f
c77 31 Vss 0.102409f
c78 28 Vss 0.035607f
c79 27 Vss 0.102409f
c80 11 Vss 0.270897f
c81 7 Vss 0.270897f
r82 75 95 1.16709
r83 73 75 2.16729
r84 71 90 1.16709
r85 69 71 2.16729
r86 67 73 0.652036
r87 67 68 10.1279
r88 63 80 0.0828784
r89 63 65 1.82344
r90 59 79 0.0828784
r91 59 61 1.82344
r92 58 78 0.326018
r93 57 69 0.652036
r94 57 58 10.1279
r95 56 68 0.652036
r96 55 80 0.551426
r97 55 56 4.58464
r98 54 80 0.551426
r99 53 79 0.551426
r100 53 54 6.75193
r101 52 79 0.551426
r102 51 78 0.326018
r103 51 52 4.58464
r104 48 65 1.16709
r105 44 61 1.16709
r106 34 95 0.0476429
r107 32 34 1.45875
r108 31 38 0.652036
r109 31 34 1.45875
r110 30 90 0.0476429
r111 28 30 1.45875
r112 27 35 0.652036
r113 27 30 1.45875
r114 24 32 0.652036
r115 21 28 0.652036
r116 11 38 3.8511
r117 11 24 3.8511
r118 7 35 3.8511
r119 7 21 3.8511
r120 4 48 0.185659
r121 2 44 0.185659
.ends

.subckt PM_G2_BUF1_N2_VSS 3 7 10 12 27 28 30 31 32 45 49 52 57 62 67 72 77 97 98
+ 99 100 101 105 110 112 114 118 Vss
c56 116 Vss 6.78504e-19
c57 115 Vss 6.78504e-19
c58 114 Vss 0.00409661f
c59 112 Vss 0.00423582f
c60 110 Vss 0.0027381f
c61 105 Vss 0.0010217f
c62 101 Vss 8.62361e-19
c63 100 Vss 5.83649e-19
c64 99 Vss 0.00516968f
c65 98 Vss 5.83649e-19
c66 97 Vss 0.00631668f
c67 77 Vss 0.00400078f
c68 72 Vss 0.00410051f
c69 67 Vss 1.62518e-19
c70 62 Vss 7.10513e-22
c71 57 Vss 8.03422e-19
c72 52 Vss 9.77866e-19
c73 49 Vss 0.00537236f
c74 45 Vss 0.00387287f
c75 32 Vss 0.0350852f
c76 31 Vss 0.0994129f
c77 28 Vss 0.0350852f
c78 27 Vss 0.0994129f
c79 7 Vss 0.268864f
c80 3 Vss 0.268864f
r81 114 118 0.326018
r82 113 116 0.551426
r83 113 114 4.58464
r84 112 116 0.551426
r85 111 115 0.551426
r86 111 112 6.75193
r87 110 115 0.551426
r88 109 110 4.58464
r89 105 116 0.0828784
r90 101 115 0.0828784
r91 99 118 0.326018
r92 99 100 10.1279
r93 97 109 0.652036
r94 97 98 10.1279
r95 93 100 0.652036
r96 89 98 0.652036
r97 67 105 1.82344
r98 62 101 1.82344
r99 57 77 1.16709
r100 57 93 2.16729
r101 52 72 1.16709
r102 52 89 2.16729
r103 49 67 1.16709
r104 45 62 1.16709
r105 34 77 0.0476429
r106 32 34 1.45875
r107 31 38 0.652036
r108 31 34 1.45875
r109 30 72 0.0476429
r110 28 30 1.45875
r111 27 35 0.652036
r112 27 30 1.45875
r113 24 32 0.652036
r114 21 28 0.652036
r115 12 49 0.185659
r116 10 45 0.185659
r117 7 38 3.8511
r118 7 24 3.8511
r119 3 35 3.8511
r120 3 21 3.8511
.ends

.subckt PM_G2_BUF1_N2_A 2 4 12 22 28 Vss
c16 28 Vss 0.00294568f
c17 22 Vss 4.01518e-19
c18 12 Vss 0.200588f
c19 9 Vss 0.126125f
c20 7 Vss 0.0247918f
c21 4 Vss 0.139046f
r22 25 28 1.16709
r23 22 25 0.0416786
r24 15 28 0.0476429
r25 13 15 0.326018
r26 13 15 0.1167
r27 12 16 0.652036
r28 12 15 6.7686
r29 9 28 0.357321
r30 7 15 0.326018
r31 7 9 0.40845
r32 4 16 3.8511
r33 2 9 3.44265
.ends

.subckt PM_G2_BUF1_N2_Z 2 4 13 18 Vss
c14 18 Vss 4.84617e-19
c15 13 Vss 0.00522706f
c16 4 Vss 0.00176567f
r17 13 18 1.16709
r18 4 13 0.185659
r19 2 13 0.185659
.ends

.subckt PM_G2_BUF1_N2_NET17 2 4 6 8 18 33 36 41 50 58 Vss
c37 58 Vss 6.57973e-19
c38 50 Vss 0.00325633f
c39 41 Vss 0.00142824f
c40 36 Vss 0.00169654f
c41 33 Vss 0.00522706f
c42 22 Vss 0.0247918f
c43 19 Vss 0.0299669f
c44 18 Vss 0.169609f
c45 8 Vss 0.00176567f
c46 6 Vss 0.126125f
c47 2 Vss 0.138383f
r48 54 58 0.653045
r49 41 50 1.16709
r50 41 58 2.1395
r51 36 54 4.37625
r52 33 36 1.16709
r53 28 50 0.0476429
r54 26 50 0.357321
r55 22 28 0.326018
r56 22 26 0.40845
r57 19 28 6.7686
r58 18 28 0.326018
r59 18 28 0.1167
r60 15 19 0.652036
r61 8 33 0.185659
r62 6 26 3.44265
r63 4 33 0.185659
r64 2 15 3.8511
.ends

