* File: G2_BUF1_N3.pex.netlist.pex
* Created: Wed Mar  2 15:50:41 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_BUF1_N3_VDD 2 4 7 11 28 30 32 44 48 52 54 56 57 61 65 67 71 75 78
+ 90 95 Vss
c55 95 Vss 0.00494983f
c56 90 Vss 0.00475556f
c57 80 Vss 9.22237e-19
c58 79 Vss 9.22237e-19
c59 75 Vss 0.00138508f
c60 71 Vss 9.81533e-19
c61 68 Vss 0.00177515f
c62 67 Vss 0.00751016f
c63 65 Vss 0.0012592f
c64 61 Vss 0.0012592f
c65 57 Vss 0.00744668f
c66 56 Vss 0.00466777f
c67 54 Vss 0.00779694f
c68 52 Vss 0.00466777f
c69 51 Vss 0.00177515f
c70 48 Vss 0.00810125f
c71 44 Vss 0.0100206f
c72 32 Vss 0.0356247f
c73 31 Vss 0.102427f
c74 28 Vss 0.0356247f
c75 27 Vss 0.102427f
c76 11 Vss 0.378484f
c77 7 Vss 0.378484f
r78 75 95 1.16709
r79 73 75 2.16729
r80 71 90 1.16709
r81 69 71 2.16729
r82 67 73 0.652036
r83 67 68 10.1279
r84 63 80 0.0828784
r85 63 65 1.82344
r86 59 79 0.0828784
r87 59 61 1.82344
r88 58 78 0.326018
r89 57 69 0.652036
r90 57 58 10.1279
r91 56 68 0.652036
r92 55 80 0.551426
r93 55 56 5.50157
r94 54 80 0.551426
r95 53 79 0.551426
r96 53 54 8.58579
r97 52 79 0.551426
r98 51 78 0.326018
r99 51 52 5.50157
r100 48 65 1.16709
r101 44 61 1.16709
r102 34 95 0.0476429
r103 32 34 1.45875
r104 31 38 0.652036
r105 31 34 1.45875
r106 30 90 0.0476429
r107 28 30 1.45875
r108 27 35 0.652036
r109 27 30 1.45875
r110 24 32 0.652036
r111 21 28 0.652036
r112 11 38 5.1348
r113 11 24 5.1348
r114 7 35 5.1348
r115 7 21 5.1348
r116 4 48 0.123773
r117 2 44 0.123773
.ends

.subckt PM_G2_BUF1_N3_VSS 3 7 10 12 27 28 31 32 45 49 52 57 62 67 72 77 97 98 99
+ 100 101 105 110 112 114 116 Vss
c52 118 Vss 6.78504e-19
c53 117 Vss 6.78504e-19
c54 114 Vss 0.00360796f
c55 112 Vss 0.00582053f
c56 110 Vss 0.00360796f
c57 109 Vss 0.0013648f
c58 105 Vss 0.0010737f
c59 101 Vss 9.14356e-19
c60 100 Vss 5.83649e-19
c61 99 Vss 0.00682958f
c62 98 Vss 5.83649e-19
c63 97 Vss 0.00550031f
c64 77 Vss 0.00392669f
c65 72 Vss 0.00392498f
c66 67 Vss 1.62518e-19
c67 62 Vss 7.10513e-22
c68 57 Vss 8.49747e-19
c69 52 Vss 0.00100529f
c70 49 Vss 0.0100686f
c71 45 Vss 0.00814922f
c72 32 Vss 0.0350852f
c73 31 Vss 0.0994129f
c74 28 Vss 0.0350852f
c75 27 Vss 0.0994129f
c76 7 Vss 0.377694f
c77 3 Vss 0.377694f
r78 113 118 0.551426
r79 113 114 5.50157
r80 112 118 0.551426
r81 111 117 0.551426
r82 111 112 8.58579
r83 110 117 0.551426
r84 109 116 0.326018
r85 109 110 5.50157
r86 105 118 0.0828784
r87 101 117 0.0828784
r88 99 114 0.652036
r89 99 100 10.1279
r90 97 116 0.326018
r91 97 98 10.1279
r92 93 100 0.652036
r93 89 98 0.652036
r94 67 105 1.82344
r95 62 101 1.82344
r96 57 77 1.16709
r97 57 93 2.16729
r98 52 72 1.16709
r99 52 89 2.16729
r100 49 67 1.16709
r101 45 62 1.16709
r102 34 77 0.0476429
r103 32 34 1.45875
r104 31 38 0.652036
r105 31 34 1.45875
r106 30 72 0.0476429
r107 28 30 1.45875
r108 27 35 0.652036
r109 27 30 1.45875
r110 24 32 0.652036
r111 21 28 0.652036
r112 12 49 0.123773
r113 10 45 0.123773
r114 7 38 5.1348
r115 7 24 5.1348
r116 3 35 5.1348
r117 3 21 5.1348
.ends

.subckt PM_G2_BUF1_N3_A 2 4 12 24 27 Vss
c13 27 Vss 0.00315166f
c14 24 Vss 1.56823e-19
c15 12 Vss 0.20431f
c16 9 Vss 0.180512f
c17 7 Vss 0.0247918f
c18 4 Vss 0.193588f
r19 24 27 1.16709
r20 15 27 0.0476429
r21 13 15 0.326018
r22 13 15 0.1167
r23 12 16 0.652036
r24 12 15 6.7686
r25 9 27 0.357321
r26 7 15 0.326018
r27 7 9 0.40845
r28 4 16 5.1348
r29 2 9 4.72635
.ends

.subckt PM_G2_BUF1_N3_Z 2 4 13 16 19 Vss
c13 16 Vss 3.73795e-19
c14 13 Vss 0.00513911f
c15 4 Vss 0.00176592f
r16 16 19 0.0416786
r17 13 16 1.16709
r18 4 13 0.123773
r19 2 13 0.123773
.ends

.subckt PM_G2_BUF1_N3_NET17 2 4 6 8 18 33 36 41 50 58 Vss
c31 58 Vss 5.10694e-19
c32 50 Vss 0.0034988f
c33 41 Vss 0.0021514f
c34 36 Vss 0.0018043f
c35 33 Vss 0.00513911f
c36 22 Vss 0.0247918f
c37 19 Vss 0.0299669f
c38 18 Vss 0.173331f
c39 8 Vss 0.00176592f
c40 6 Vss 0.180667f
c41 2 Vss 0.192541f
r42 54 58 0.653045
r43 41 50 1.16709
r44 41 58 2.1395
r45 36 54 5.29318
r46 33 36 1.16709
r47 28 50 0.0476429
r48 26 50 0.357321
r49 22 28 0.326018
r50 22 26 0.40845
r51 19 28 6.7686
r52 18 28 0.326018
r53 18 28 0.1167
r54 15 19 0.652036
r55 8 33 0.123773
r56 6 26 4.72635
r57 4 33 0.123773
r58 2 15 5.1348
.ends

